US06693123B2
[4-(3-Pyridylcarbonylamino)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester
To a stirred solution of the [4-amino-2-(2-methylphenyl)benzoyl]methionine methyl ester (85 mg, 0.23 mmol) in CH2Cl2 (5 mL) was added nicotinic acid chloride hydrochloride (81 mg, 0.46 mmol) and saturated NaHCO3 (2 mL). The reaction was stirred at ambient temperature for 2 hours. The reaction was diluted with CH2Cl2 (10 mL), the layers were separated and the organic layer washed with saturated aqueous NaHCO3 (5 mL), dried (MgSO4) and concentrated in vacuo. Flash chromatography (CH2Cl2-methanol 50:1) and crystallization from ethyl acetate gave the desired compound (87 mg, 80%) as a white powder. 1H NMR (300 MHz, CDCl3) δ 9.10 (dd, 1H, J=2.4, 1.0 Hz), 8.80 (dd, 1H, J=4.7, 1.7 Hz), 8.21 (ddd, 1H, J=7.8, 2.4, 1.7 Hz), 8.09-8.00 (m, 2H), 7.71-7.66 (m, 1H), 7.64-7.61 (m, 1H), 7.46 (ddd, 1H, J=7.8, 4.7, 1.0 Hz), 7.35-7.20 (m, 4H), 5.92 (bd, J=7.5 Hz), 4.67-4.57 (m, 1H), 3.66 (s, 3H), 2.23-2.01 (4 s and m, 8H), 2.00 (m, 1H), 1.65-1.52 (m, 1H). MS m/z 478 (M+1)+.

reactant | [4-amino-2-(2-methylphenyl)benzoyl]methionine methyl ester | 0.23 mmol, 85 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=C(C=CC=C1)C)=O)CCSC)=O | C20H24N2O3S
reactant | nicotinic acid chloride hydrochloride | 0.46 mmol, 81 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(3-Pyridylcarbonylamino)-2-(2-methylphenyl)benzoyl]methionine Methyl Ester | 87 mg, 80% | COC([C@@H](NC(C1=C(C=C(C=C1)NC(=O)C=1C=NC=CC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C26H27N3O4S
